US06255494B1
Preparation of 1-(3-carboxypropyl)-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
To a mixture of tetrahydrofuran (72 ml), methanol (24 ml), and water (24 ml), were added 1-[3-(ethoxycarbonyl)propyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (2.0 g, 5.2 mmol) and lithium hydroxide (642 mg, 3 eq.). The resulting mixture was stirred overnight at room temperature and was then concentrated in vacuo to yield a white solid. This residue was taken into 250 ml of a 3:1 butanol:toluene solution. The organic fraction was washed once with 200 ml of water and then dried over magnesium sulfate. The solvents were removed in vacuo to yield 1.56 grams of tan solid, which was further purified by flash chromatography, eluting with a gradient solvent of 19:1 ethyl acetate:methanol to 9:1 ethyl acetate:methanol. The fractions containing the desired material were combined and concentrated under reduced pressure to yield 1.31 grams (70%) of the desired title product as a white solid.

reactant | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
reactant | methanol | 24 ml | CO | CH4O
reactant | 1-[3-(ethoxycarbonyl)propyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 5.2 mmol, 2.0 g | C(C)OC(=O)CCCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl | C21H23ClN2O3
reactant | lithium hydroxide | 642 mg, 3 eq. | [OH-].[Li+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | 1 butanol | C(CCC)O | C4H10O
solvent | water | 24 ml | O | H2O
product | 1-(3-carboxypropyl)-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 1.56 grams | C(=O)(O)CCCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl | C19H19ClN2O3
